US06080764
In 100 ml of chloroform-ethanol was suspended 2.9 g of 2-(3-methoxy-4-methylsulfinylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole. Under ice-cooling, 1.72 g of m-chloroperbenzoic acid (80%) was added in small portions and the mixture was stirred for 1 hour. Then, the mixture was returned to room temperature and stirred overnight. The resulting crystals were collected by filtration, washed with ethanol and diethyl ether, and dried. Recrystallization from dimethylformamide-water to obtain 0.50 g of 2-(3-methoxy-4-methylsulfonylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole as a white powder.

reactant | 2-(3-methoxy-4-methylsulfinylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 2.9 g | COC=1C=C(C=CC1S(=O)C)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O3S2
reactant | m-chloroperbenzoic acid | 1.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform ethanol | 100 ml | C(Cl)(Cl)Cl.C(C)O
product | 2-(3-methoxy-4-methylsulfonylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 0.50 g | COC=1C=C(C=CC1S(=O)(=O)C)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O4S2
